US06107291
1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid was synthesized from 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester in the same manner as the procedures used for the preparation of 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid: MS (M-H)- =432.

reactant | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1CSC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C25H31NO5S2
reactant | 3-Acetoxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid | C(C)(=O)OCC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C17H23NO7S
product | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(C(CC=CC1)CSC1=CC=CC=C1)C(=O)O | C21H23NO5S2
